US08030305B2
3-(4-Methoxy-benzyl)-6-(6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3H quinazolin-4-one (0.010 mg, 0.021 mmol) was treated with trifluoroacetic acid (1 mL) and anisole (0.1 mL) and heated to 90° C. for 18 hours. The compound was purified via reverse phase HPLC on a C18 column eluting with acetonitrile in water (0.1% TFA) to give 0.0026 g (35%) of 6-(6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3H-quinazolin-4-one. 1H NMR (400 MHz, DMSO-d6) δ 9.32 (m, 1H), 8.79 (m, 1H), 8.53 (m, 2H), 8.20 (m, 1H), 8.10 (s, 1H), 8.03 (d, 1H, J=10.0 Hz), 7.89 (d, 1H, J=8.4 Hz), 7.66 (m, 2H), 4.80 (s, 2H). Mass spectrum (LCMS, ESI pos.): Calcd for C19H13N7O; found: 356.3, 357.3 (M+H).

reactant | 3-(4-Methoxy-benzyl)-6-(6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3H quinazolin-4-one | 0.021 mmol, 0.010 mg | COC1=CC=C(CN2C=NC3=CC=C(C=C3C2=O)CC2=NN=C3N2N=C(C=C3)C=3C=NC=CC3)C=C1 | C27H21N7O2
reactant | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | anisole | 0.1 mL | C1(=CC=CC=C1)OC | C7H8O
product | 6-(6-pyridin-3-yl-[1,2,4]triazolo[4,3-b]pyridazin-3-ylmethyl)-3H-quinazolin-4-one | 0.0026 g, 35% | N1=CC(=CC=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C(NC=NC1=CC2)=O | C19H13N7O
